US05185351
To a solution of diisopropylamine (1.96 g, 0.0194 mol) in dry tetrahydrofuran (40 mL) held at -78° C. under argon was added n-butyl lithium (7.3 mL, 0.0183 mol of 2.5M in toluene), and the mixture was stirred for 10 minutes. Then, methyl 3-(2-thienyl)propanoate (2.83 g, 0.0166 mol) in tetrahydrofuran (2 mL) was added, and the mixture was stirred for 30 minutes at -78° C. A solution of 2-n-butyl-1-(2-chlorophenyl)methyl-1H-imidazol-5-carboxaldehyde 0.0111 mol) in tetrahydrofuran (4 mL) was added, and the resulting mixture was stirred at -78° C. for 30 minutes. The reaction was partitioned between saturated ammonium chloride solution and ether, the organic extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated to 6.67 g of crude product. This was flash chromatographed over 70 g of silica gel with 4:1 ethyl acetate/hexane to provide 4.03 g (81%) of methyl 3-[2-n-butyl-1-(2-chlorophenyl)methyl-1H-imidazol-5-yl]-3-hydroxy-2-(2-thienyl)methyl-propanoate.

reactant | diisopropylamine | 0.0194 mol, 1.96 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 0.0183 mol, 2.5M, 7.3 mL | C(CCC)[Li]
reactant | methyl 3-(2-thienyl)propanoate | 0.0166 mol, 2.83 g | S1C(=CC=C1)CCC(=O)OC | C8H10O2S
reactant | 2-n-butyl-1-(2-chlorophenyl)methyl-1H-imidazol-5-carboxaldehyde | 0.0111 mol | C(CCC)C=1N(C(=CN1)C=O)CC1=C(C=CC=C1)Cl | C15H17ClN2O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | methyl 3-[2-n-butyl-1-(2-chlorophenyl)methyl-1H-imidazol-5-yl]-3-hydroxy-2-(2-thienyl)methyl-propanoate | 4.03 g, 81% | C(CCC)C=1N(C(=CN1)C(C(C(=O)OC)CC=1SC=CC1)O)CC1=C(C=CC=C1)Cl | C23H27ClN2O3S
